US04808620
The similar procedure in reference example 1 by using 12.2 g of 2-chloro-4,6-dimethylnicotinoyl chloride, 14.8 g of 2,6-di-tertiary butylphenol and 18.8 g of anhydrous stannic chloride in dichloroethane is performed and the obtained crude product is recrystallized from hexane to give 18.3 g of 4-(2-chloro-4,6-dimethylnicotinoyl)-2,6-di-tertiary butylphenol as pale yellow crystals, melting at 129°-132° C. According to the similar manner as the above Reference Examples, 4-(2-chloro-6-isopropylnicotinoyl)-2,6-di-tertiary butylphenol, melting at 109°-110° C. is prepared.

reactant | 2-chloro-4,6-dimethylnicotinoyl chloride | 12.2 g | ClC1=C(C(=O)Cl)C(=CC(=N1)C)C | C8H7Cl2NO
reactant | 2,6-di-tertiary butylphenol | 14.8 g | C(C)(C)(C)C1=C(C(=CC=C1)C(C)(C)C)O | C14H22O
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | 4-(2-chloro-4,6-dimethylnicotinoyl)-2,6-di-tertiary butylphenol | 18.3 g | ClC1=C(C(=O)C2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C)C(=CC(=N1)C)C | C22H28ClNO2
